US07109227B2
A mixture of 4-fluorobenzaldehyde (2.0 g, 15.8 mmol), 20% hydrochloric acid (4 mL) was added to an aminoguanidine bicarbonate (2.2 g, 15.8 mmol) aqueous solution. After completion of the liberation of carbon dioxide, the mixture was heated for 4 h. A solution of 40% aqueous potassium hydroxide (7 mL) was added and the mixture was heated at reflux for additional 10 min. The resulting solution was cooled, filtered, washed with water until the wash water was at pH 7, dried and recrystallized from ethanol to give 2-[(E)-1-(4-fluorophenyl)methylidene]-1-hydrazinecarboximidamide (2.6 g, 91%) as a yellow solid.

reactant | 4-fluorobenzaldehyde | 15.8 mmol, 2.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | hydrochloric acid | 4 mL | Cl | ClH
reactant | aminoguanidine bicarbonate | 15.8 mmol, 2.2 g | C(O)(O)=O.NNC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | potassium hydroxide | 7 mL | [OH-].[K+]
product | 2-[(E)-1-(4-fluorophenyl)methylidene]-1-hydrazinecarboximidamide | 2.6 g, 91% | FC1=CC=C(C=C1)\C=N\NC(N)=N | C8H9FN4
